US09422281B2
A 50-mL round bottomed flask equipped with a magnetic stir bar was charged with (S)-1-(6-bromo-2-methyl-3,4-dihydroquinoxaline-1(2H)-yl)-2,2,2-trifluoroethanone (0.500 g, 1.547 mmol), dichloromethane (10 mL), and pyridine (0.188 mL, 2.321 mmol). The resulting solution was cooled to 0° C. and slowly treated with 2-fluorobenzoyl chloride (0.194 mL, 1.625 mmol). The solution was stirred at 0° C. for 1 h and then allowed to warm to rt. After stirring overnight at rt, the reaction mixture was diluted with dichloromethane and washed with 1 M aqueous HCl solution (10 mL) followed by 5% aqueous sodium chloride solution (10 mL). The dichloromethane extract was concentrated to afford crude (S)-1-(6-bromo-4-(2-fluorobenzoyl)-2-methyl-3,4-dihydroquinoxaline-1(2H)-yl)-2,2,2-trifluoroethanone (0.686 g, 100%). MS (ESI, pos. ion) m/z 445, 447 [M+1].

reactant | (S)-1-(6-bromo-2-methyl-3,4-dihydroquinoxaline-1(2H)-yl)-2,2,2-trifluoroethanone | 1.547 mmol, 0.500 g | BrC=1C=C2NC[C@@H](N(C2=CC1)C(C(F)(F)F)=O)C | C11H10BrF3N2O
reactant | pyridine | 2.321 mmol, 0.188 mL | N1=CC=CC=C1 | C5H5N
reactant | 2-fluorobenzoyl chloride | 1.625 mmol, 0.194 mL | FC1=C(C(=O)Cl)C=CC=C1 | C7H4ClFO
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | (S)-1-(6-bromo-4-(2-fluorobenzoyl)-2-methyl-3,4-dihydroquinoxaline-1(2H)-yl)-2,2,2-trifluoroethanone | 0.686 g, 100% | BrC=1C=C2N(C[C@@H](N(C2=CC1)C(C(F)(F)F)=O)C)C(C1=C(C=CC=C1)F)=O | C18H13BrF4N2O2
